US05514691
N-(4-Methoxycarbonyl-3-trifluoromethyl-5-isoxazolyl)benzenesulfonamide was prepared as described in Example 25 from 5-amino-4-methoxycarbonyl-3-trifluoromethylisoxazole and benzenesulfonyl chloride in 85% yield. The crude product was purified by recrystallization from methanol/water to give a solid, m.p. 100°-101° C.

reactant | 5-amino-4-methoxycarbonyl-3-trifluoromethylisoxazole | NC1=C(C(=NO1)C(F)(F)F)C(=O)OC | C6H5F3N2O3
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(4-Methoxycarbonyl-3-trifluoromethyl-5-isoxazolyl)benzenesulfonamide | 85% yield | COC(=O)C=1C(=NOC1NS(=O)(=O)C1=CC=CC=C1)C(F)(F)F | C12H9F3N2O5S
